US05852011
3-Methoxy-4-[N,N-bis(2-chloroethyl)amino]benzoic acid
Methyl 3-methoxy-4-[bis(2-chloroethyl)amino]benzoate (1.0 g; 3.3 mmol) was added to 20 ml of concentrated hydrochloric acid, followed by stirring for 30 minutes under heating and reflux. The solvent was distilled out under reduced pressure, whereby 707 mg of white powder were obtained (yield: 74%).

reactant | Methyl 3-methoxy-4-[bis(2-chloroethyl)amino]benzoate | 3.3 mmol, 1.0 g | COC=1C=C(C(=O)OC)C=CC1N(CCCl)CCCl | C13H17Cl2NO3
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 3-Methoxy-4-[N,N-bis(2-chloroethyl)amino]benzoic acid | 707 mg, yield: 74% | COC=1C=C(C(=O)O)C=CC1N(CCCl)CCCl | C12H15Cl2NO3
